US05403816
Preparation of methyl 6-(2-butenylamino)-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate (Compound No. 56)
3.0 g (9.8 mmol) of methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate, 1.5 g (10.8 mmol) of 2-butenyl bromide and 1.6 g (11.8 mmol) of potassium carbonate were added to 10 ml of DMF, and the mixture was stirred at 100° C. for one hour. After completion of the reaction, the reaction mixture was poured into water, then extracted with ethyl acetate, dried and concentrated. Then, the obtained residue was purified by column chromatography and crystallized to obtain a solid, which was washed with diisopropyl ether to obtain the desired product as colorless prism crystals.

reactant | methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate | 9.8 mmol, 3.0 g | NC1=CC=C(C(=N1)C(=O)OC)OC1=NC(=CC(=N1)OC)OC | C13H14N4O5
reactant | 2-butenyl bromide | 10.8 mmol, 1.5 g | C(C=CC)Br | C4H7Br
reactant | potassium carbonate | 11.8 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 6-(2-butenylamino)-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate | yield: 36.6% | C(C=CC)NC1=CC=C(C(=N1)C(=O)OC)OC1=NC(=CC(=N1)OC)OC | C17H20N4O5
